US05266691
4-Nitrobenzvl 2-[(3R,4R)-4-[(benzothiazol-2-yl)dithio]-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-hydroxy-2-butenoate (XIVb)
A solution of 4-nitrobenzyl 2-[(3R,4R)-4[(benzothiazol-2-yl)dithio]-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-methyl-3-butenoate (XIIIc. 1.52 g 0.00244 mole) in 2:1 methanol/dichloromethane (165 mL), at -78° C., was treated with a stream of dry ozone until a pale blue coloration was reached (10 min). Nitrogen was then bubbled through the solution to discharge the blue color and methyl sulfide (1.5 mL) was added. The solution allowed to reach 0° C. over the course of 2 h. Evaporation of the solvents gave a crude product which was purified by flash-chromatography over silica gel (65% ethyl acetate in hexane) to yield 1.448 g (95%) of the title compound, XIVb, as a white foam.

reactant | 4-nitrobenzyl 2-[(3R,4R)-4[(benzothiazol-2-yl)dithio]-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-methyl-3-butenoate | 0.00244 mole, 1.52 g | S1C(=NC2=C1C=CC=C2)SS[C@@H]2[C@@H](C(N2C(C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=C)C)=O)NC(COC2=CC=CC=C2)=O | C30H26N4O7S3
reactant | ozone | O=[O+][O-] | O3
solvent | methanol dichloromethane | 165 mL | CO.ClCCl
product | 4-Nitrobenzvl 2-[(3R,4R)-4-[(benzothiazol-2-yl)dithio]-3-phenoxyacetamido-2-oxo-azetidin-1-yl]-3-hydroxy-2-butenoate | 1.448 g, 95% | S1C(=NC2=C1C=CC=C2)SS[C@@H]2[C@@H](C(N2C(C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=C(C)O)=O)NC(COC2=CC=CC=C2)=O | C29H24N4O8S3
